US08865682B2
A mixture of 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoic acid (50 mg, 0.13 mmol), 3-methylamino-1,2-propanediol (40 mg, 0.38 mmol), O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU, 61 mg, 0.16 mmol) and diisopropylethylamine (37 mg, 0.29 mmol) in 6 mL of anhydrous DMF was stirred at room temperature for 10 minutes. The mixture was poured into 100 mL of water. The precipitates were filtered, washed with water, and dried in vacuum to give 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]-N-(2,3-dihydroxypropyl)-N-methylbenzamide as yellow solid. Yield: 47 mg, 81%.

reactant | 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoic acid | 0.13 mmol, 50 mg | FC=1C=C2/C(/C(NC2=CC1F)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(C(=O)O)C=C1 | C21H15F2NO4
reactant | 3-methylamino-1,2-propanediol | 0.38 mmol, 40 mg | CNCC(CO)O | C4H11NO2
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.16 mmol, 61 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.29 mmol, 37 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]-N-(2,3-dihydroxypropyl)-N-methylbenzamide | FC=1C=C2/C(/C(NC2=CC1F)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(C(=O)N(C)CC(CO)O)C=C1 | C25H24F2N2O5
